US06727238B2
4-[5-[4-(2-Furyl)phenyl]-3-hydroxymethyl-1-[4-(methylsulfonyl)phenyl]-1H-pyrazole. (Step 3)
The title compound was prepared according to the procedure of Example 1 using 2-furanboronic acid instead of 2-thiophenboronic acid acid and 4-[5-[4-Bromophenyl]-3-hydroxymethyl-[4-(methylsulfonyl)phenyl]-1H-pyrazole instead of 1-[4-(Methylsulfonyl)phenyl]-5-(4-bromophenyl)-3-trifluoromethyl-1H-pyrazole in step 2.

reactant | 2-furanboronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | 5-[4-Bromophenyl]-3-hydroxymethyl-[4-(methylsulfonyl)phenyl]-1H-pyrazole | BrC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)C)CO | C17H15BrN2O3S
product | 5-[4-(2-Furyl)phenyl]-3-hydroxymethyl-1-[4-(methylsulfonyl)phenyl]-1H-pyrazole | O1C(=CC=C1)C1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)C)CO | C21H18N2O4S
